US06022884
EXAMPLE 9 Preparation of N-(6-(4-chloro-2-methyl-phenoxy)-pyridin-3-yl)-2-hydroxy-benzamide
Acetic acid 2-(6-(4-chloro-2-methyl-phenoxy)-pyridin-3-ylcarbamoyl)-phenyl ester (304 mg, 0.77 mmol) dissolved in tetrahydrofuran (3.8 mL) was treated with an aqueous lithium hydroxide solution (1.0 M, 3.8 mL, 3.8 mmol). The solution was stirred for 30 minutes at 22° C. then quenched with aqueous saturated NH4Cl. The mixture was diluted with ethyl acetate then the organics were washed with water, 2× saturated NaHCO3, saturated NaCl, dried over Na2SO4 and concentrated in vacuo. MS (m/z): 354/356 (M+H)+ ; C19H15N2O3Cl requires 354.8.

reactant | Acetic acid 2-(6-(4-chloro-2-methyl-phenoxy)-pyridin-3-ylcarbamoyl)-phenyl ester | 0.77 mmol, 304 mg | ClC1=CC(=C(OC2=CC=C(C=N2)NC(=O)C2=C(C=CC=C2)OC(C)=O)C=C1)C | C21H17ClN2O4
reactant | lithium hydroxide | 3.8 mmol, 1.0 M, 3.8 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 3.8 mL | O1CCCC1 | C4H8O
product | N-(6-(4-chloro-2-methyl-phenoxy)-pyridin-3-yl)-2-hydroxy-benzamide | ClC1=CC(=C(OC2=CC=C(C=N2)NC(C2=C(C=CC=C2)O)=O)C=C1)C | C19H15ClN2O3
